US08097759B2
N-(3,5-Dichlorophenyl)-2-hydroxy-5-methylbenzamide (Compound No. 153)
Using 5-methylsalicylic acid and 3,5-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-methylsalicylic acid | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | N-(3,5-Dichlorophenyl)-2-hydroxy-5-methylbenzamide | Yield: 71.0% | ClC=1C=C(C=C(C1)Cl)NC(C1=C(C=CC(=C1)C)O)=O | C14H11Cl2NO2
